US09315542B2
Benzyl 2-(4-(chlorosulfonyl)-3,5-dimethylphenoxy)acetate (5)
Referring to FIG. 37, to a solution of 2-(4-(chlorosulfonyl)-3,5-dimethylphenoxy)acetyl chloride (6 g, 20.3 mmol) in THF (60 mL) were added dropwise a solution of BnOH (2.2 g, 20.3 mmol). Et3N (3.44 mL, 24.3 mmol) and DMAP (25 mg, 0.2 mmol) in THF (30 mL) at −78° C. The reaction mixture was stirred for 5 h at −78° C. and then poured into HCl solution (1 N, 100 mL). The resulting mixture was extracted with ethyl acetate (100 mL×2). The combined extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by flash column chromatography (petroleum ether/EtOAc=60:1) to give product as a white powder (1.2 g, 16% yield). 2-(4-(Chlorosulfonyl)-3,5-dimethylphenoxy)acetyl chloride (2.0 g) was recovered. 1H NMR (CDCl3, 300 MHz): δ 7.42-7.32 (m, 5H), 6.67 (s, 2H), 5.32 (s, 2H), 4.74 (s, 2H) 2.72 (s, 6H).

reactant | 2-(4-(chlorosulfonyl)-3,5-dimethylphenoxy)acetyl chloride | 20.3 mmol, 6 g | ClS(=O)(=O)C1=C(C=C(OCC(=O)Cl)C=C1C)C | C10H10Cl2O4S
reactant | BnOH | 20.3 mmol, 2.2 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Et3N | 24.3 mmol, 3.44 mL | CCN(CC)CC | C6H15N
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.2 mmol, 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Benzyl 2-(4-(chlorosulfonyl)-3,5-dimethylphenoxy)acetate | 1.2 g, 16% yield | ClS(=O)(=O)C1=C(C=C(OCC(=O)OCC2=CC=CC=C2)C=C1C)C | C17H17ClO5S
